US06894050B2
Preparation of Intermediate (6-Methyl-pyridin-2-ylmethyl)-(3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-6′-yl)-amine (I-4m)
A solution of (6-methyl-pyridin-2-yl methyl)-(3,4,5,6-tetrahydro-2H-[1,2′]-bipyrazinyl-6′-yl)-carbamic acid tert-butyl ester I-4l (196.9 mg, 0.51 mM) in methylene chloride (2 mL) was treated with trifluoroacetic Acid (0.39 mL, 5.12 mmol). The resulting mixture was stirred at ambient temperature overnight. The reaction mixture was quenched with saturated NaHCO3 solution and the pH of the aqueous layer brought to approximately 10 using 1N NaOH. The reaction mixture was diluted with methylene chloride and separated. The aqueous layer was extracted with methylene chloride and the organic layers were combined, dried (Na2SO4), and concentrated to dryness to afford the desired product I-4m.

reactant | (6-methyl-pyridin-2-yl methyl)-(3,4,5,6-tetrahydro-2H-[1,2′]-bipyrazinyl-6′-yl)-carbamic acid tert-butyl ester | 0.51 mM, 196.9 mg | C(C)(C)(C)OC(N(C1=CN=CC(=N1)N1CCNCC1)CC1=NC(=CC=C1)C)=O | C20H28N6O2
reactant | trifluoroacetic Acid | 5.12 mmol, 0.39 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | (6-Methyl-pyridin-2-ylmethyl)-(3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-6′-yl)-amine | CC1=CC=CC(=N1)CNC1=CN=CC(=N1)N1CCNCC1 | C15H20N6
